US07635715B2
Bis(triphenylphosphine)palladium(II) chloride (456 mg, 0.649 mmol), cuprous iodide (371 mg, 1.95 mmol), and ethyl 2-(3-fluoro-2-iodophenyl)acetate (2.0 g, 6.49 mmol), were mixed in a 20 mL microwave tube. The tube was sealed, and ACN (12 mL) and TEA (6 mL) were added. The mixture was placed under argon atmosphere and 3,3,3-triethoxyprop-1-yne (1.68 g, 9.74 mmol) was added via syringe. The reaction was heated at 60° C. for 16 hours, cooled to room temperature, and concentrated under vacuum. The residue was purified by flash chromatography to give 820 mg of ethyl 2-(3-fluoro-2-(3,3,3-triethoxyprop-1-ynyl)phenyl)acetate as a yellow oil.

reactant | ethyl 2-(3-fluoro-2-iodophenyl)acetate | 6.49 mmol, 2.0 g | FC=1C(=C(C=CC1)CC(=O)OCC)I | C10H10FIO2
reactant | 3,3,3-triethoxyprop-1-yne | 9.74 mmol, 1.68 g | C(C)OC(C#C)(OCC)OCC | C9H16O3
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.649 mmol, 456 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ACN | 12 mL | C(C)#N | C2H3N
product | ethyl 2-(3-fluoro-2-(3,3,3-triethoxyprop-1-ynyl)phenyl)acetate | 820 mg | FC=1C(=C(C=CC1)CC(=O)OCC)C#CC(OCC)(OCC)OCC | C19H25FO5
